US07888364B2
78 μL of iodomethane and 447 mg of Cesium Carbonate were added to 300 mg of methyl 2-chloro-4-(methylsulfonamido)benzoate in 3 mL of DMF and stirred at room temperature for 16 hours. The reaction mixture was extracted in Ethyl Acetate twice with saturated bicarbonate and once with brine, dried over Magnesium Sulfate, filtered and concentrated to give crude methyl 2-chloro-4-(N-methylmethylsulfonamido)benzoate. 295 mg of methyl 2-chloro-4-(N-methylmethylsulfonamido)benzoate was hydrolyzed via Procedure M to yield 249 mg of 2-chloro-4-(N-methylmethylsulfonamido)benzoic acid.

reactant | iodomethane | 78 μL | IC | CH3I
reactant | Cesium Carbonate | 447 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-chloro-4-(methylsulfonamido)benzoate | 300 mg | ClC1=C(C(=O)OC)C=CC(=C1)NS(=O)(=O)C | C9H10ClNO4S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | methyl 2-chloro-4-(N-methylmethylsulfonamido)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)N(S(=O)(=O)C)C | C10H12ClNO4S
